US04695654
The compound 1-methanesulfonyl-2,2-difluoro-3-butene (11.2 g, 60.2 mM), potassium phthalide (12.3 g, 66.4 mM) and dry dimethylformamide (30 mL) are stirred and heated (bath temperature 110° C.) under nitrogen for 120 hours. After cooling to room temperature, the curde reaction product is precipitated by the addition of water (approximately 300 mL), filtered and dissolved in dichloromethane. The dichloromethane solution is washed with 1N potassium hydroxide (twice), water (twice), dried (Na2SO4) and evaporated to yield 1-phthalimido-2,2-difluoro-3-butene as beige-colored crystals: 11.9 g (83%).

reactant | 1-methanesulfonyl-2,2-difluoro-3-butene | 60.2 mM, 11.2 g | CS(=O)(=O)CC(C=C)(F)F | C5H8F2O2S
reactant | potassium phthalide | 66.4 mM, 12.3 g | C1(=O)OCC2=CC=CC=C12.[K]
reactant | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-phthalimido-2,2-difluoro-3-butene | C1(C=2C(C(N1CC(C=C)(F)F)=O)=CC=CC2)=O | C12H9F2NO2
